US06320051B1
b) 2,5-Dichloro-4-methoxyquinoline
To 2.4,5-trichloroquinoline (0.79 g, 3.4 mmol) was added KOMe (20.4 ml of a 0.5 M suspension in MeOH). The mixture was heated under reflux for 2.5 h. EtOAc was added and the solution was allowed to cool to room temperature. The solvent was evaporated in vacuo and the residue submitted to column chromatography (silica gel, EtOAc:hexanes 1:6→1:3). 4,5-Dichloro-2-methoxyquinoline eluted first, then 2,4,5-trichloroquinoline. followed by the title compound, a colourless solid, (0.43 g, 44%). δH (CDCl3) 4.04 (s, 3H), 6.77 (s, 1H), 7.50-7.60 (m, 2H), 7.85 (dd, J=6.7, 3.0, 1H); MS (AP+) 228 (MH+, 100%).

reactant | 2.4,5-trichloroquinoline | 3.4 mmol, 0.79 g | ClC1=NC2=CC=CC(=C2C(=C1)Cl)Cl | C9H4Cl3N
reactant | KOMe | O([K])C
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | CO | CH4O
product | 2,5-Dichloro-4-methoxyquinoline | ClC1=NC2=CC=CC(=C2C(=C1)OC)Cl | C10H7Cl2NO
